US04943637
2-nitro-2'-hydroxy-3',5'-di-t-butylazobenzene 23.7 g was added to a mixture of n-octanol 50 g, water 14 g and 97% sodium hydroxide 8.2 g, and the resultant mixture was heated to 65° C. The mixture was then cooled to 50° C., and 9-fluorenone 2.0 g was added thereto. The resultant mixture was stirred at 90°~97° C. for 2 hours, thus almost all of the azobenzene having disappeared to produce 2-(2-hydroxy-3,5-di-t-butylphenyl)benzotriazole-N-oxide. Thus, the reaction of Process (b) was completed.

reactant | 2-nitro-2'-hydroxy-3',5'-di-t-butylazobenzene | 23.7 g | [N+](=O)([O-])C1=C(C=CC=C1)N=NC1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O | C20H25N3O3
reactant | sodium hydroxide | 8.2 g | [OH-].[Na+]
reactant | 9-fluorenone | 2.0 g | C1=CC=CC=2C3=CC=CC=C3C(C12)=O | C13H8O
reactant | azobenzene | N(=NC1=CC=CC=C1)C1=CC=CC=C1 | C12H10N2
solvent | water | 14 g | O | H2O
solvent | n-octanol | 50 g | C(CCCCCCC)O | C8H18O
product | 2-(2-hydroxy-3,5-di-t-butylphenyl)benzotriazole-N-oxide | OC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)N1N=C2C(=[N+]1[O-])C=CC=C2 | C20H25N3O2
